US07795360B2
Preparation of 3-methacryloxypropyl tris (trimethylsiloxy) silane
A flask equipped with a stirrer was loaded with 38.7 g of hexamethyldisiloxane, 0.05 g of trifluoromethane sulfonic acid, and 28.6 g of acetic acid, and the mixture was heated to 50° C. Following this, 26.3 g of 3-methacryloxypropyltrimethoxysilane was then added dropwise, and a reaction was conducted for 2 hours. The reaction was continued to completion after the reaction product was washed with water twice, reheated to 60° C., and combined with 0.016 g of trifluoroacetic acid and 6.32 g of hexamethyldisiloxane. The obtained product was washed with water twice and the and the target product was received after stripping the residual hexamethyl disiloxane, acetic acid, and other low-boiling-point substances by treating the product for 2 hours at a temperature of 100° C. and pressure of 10 Torr.

reactant | hexamethyldisiloxane | 38.7 g | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | trifluoromethane sulfonic acid | 0.05 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 3-methacryloxypropyltrimethoxysilane | 26.3 g | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
solvent | acetic acid | 28.6 g | C(C)(=O)O | C2H4O2
product | 3-methacryloxypropyl tris (trimethylsiloxy) silane | C(C(=C)C)(=O)OCCC[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C16H38O5Si4
